US09062076B2
A solution of methyl 2-amino-3-hydroxybenzoate (167 mg, 1.0 mmol), acetyl chloride (86 mg, 1.1 mmol) and triethylamine (101 mg, 1.1 mmol) in xylene (10 mL) was stirred at 0° C. for 2 h. Pyridine (20 mg, 0.25 mmol) and TsOH (43 mg, 0.25 mmol) were then added and the mixture was heated at reflux overnight. The mixture was then cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with water, brine, then dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography using petroleum ether/ethyl acetate 5:1 (v:v) as eluent to give methyl 2-methylbenzo[d]oxazole-4-carboxylate (151 mg, 79%). LC-MS (ES-API); rt 8.08 min; m/z calculated for C10H9NO3 [M+H]+ 192.1, found 192.1.

reactant | methyl 2-amino-3-hydroxybenzoate | 1.0 mmol, 167 mg | NC1=C(C(=O)OC)C=CC=C1O | C8H9NO3
reactant | acetyl chloride | 1.1 mmol, 86 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 1.1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | Pyridine | 0.25 mmol, 20 mg | N1=CC=CC=C1 | C5H5N
reactant | TsOH | 0.25 mmol, 43 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | methyl 2-methylbenzo[d]oxazole-4-carboxylate | 151 mg, 79% | CC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C10H9NO3
